US09216999B2
6-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)spiro[2.5]octane-1-carbonitrile
Trimethylsulfonium iodide (59.0 μL, 0.269 mmol) in dimethyl sulfoxide (1 mL) was stirred with sodium hydride (55 wt % dispersion in mineral oil, 12.0 mg, 0.269 mmol) at room temperature for 30 minutes. The reaction mixture was mixed with 2-[4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexylidene]acetonitrile (15.0 mg, 0.0539 mmol) obtained in Synthetic Examplea 434 and then stirred at room temperature for 15 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1 (v/v)) to give the title compound as a colorless solid (5.80 mg, yield 37%).

reactant | Trimethylsulfonium iodide | 0.269 mmol, 59.0 μL | [I-].C[S+](C)C
reactant | sodium hydride | 0.269 mmol, 12.0 mg | [H-].[Na+]
reactant | 2-[4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexylidene]acetonitrile | 0.0539 mmol, 15.0 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CCC(CC3)=CC#N | C15H14N6
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 6-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)spiro[2.5]octane-1-carbonitrile | 5.80 mg, yield 37% | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CCC2(CC2C#N)CC3 | C16H16N6
